US06046210
7-Methoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline
A mixture of thallium (III) nitrate trihydrate (0.73 g, 1.6 mmol), K10 clay (1.65 g) and trimethyl orthoformate (1.8 ml, 1.6 mmol) in methanol (3 ml) was stirred at room temperature for 15 min. The solvent was evaporated in vacuo and dichloromethane (5 ml) was added to the residue. To this mixture was added a solution of 7-acetyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline, hydrochloride (0.50 g, 1.1 mmol) in dichloromethane (15 ml) and the reaction mixture was stirred for 4 h. The suspended solid was removed by filtration and the filtrate was washed with saturated aqueous potassium carbonate (2×30 ml), then brine (30 ml). Drying (Na2SO4) and evaporation in vacuo afforded a yellow gum which was chromatographed on silica using 20-100% ethyl acetate--pentane gradient elution to afford the title compound as an off-white solid (0.15 g, 30%).

reactant | thallium (III) nitrate trihydrate | 1.6 mmol, 0.73 g | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | trimethyl orthoformate | 1.6 mmol, 1.8 ml | C(OC)(OC)OC | C4H10O3
reactant | 7-acetyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline, hydrochloride | 1.1 mmol, 0.50 g | Cl.C(C)(=O)C1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-Methoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 0.15 g, 30% | COC(=O)CC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H32N2O3
